US07767675B2
Step 2. 5-(4-Fluorophenyl)pyrimidin-2-amine
2-Chloro-5-(4-fluorophenyl)pyrimidine (376 mg) in 7M of ammonia in methanol (10 mL) in a sealed tube was heated at 50° C. overnight. After concentration, the product was obtained (360 g) which was used in the next reaction step without further purification. LCMS: (M+H)=190.1.

reactant | 2-Chloro-5-(4-fluorophenyl)pyrimidine | 376 mg | ClC1=NC=C(C=N1)C1=CC=C(C=C1)F | C10H6ClFN2
reactant | ammonia | 7M | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 5-(4-Fluorophenyl)pyrimidin-2-amine | FC1=CC=C(C=C1)C=1C=NC(=NC1)N | C10H8FN3
